US07884109B2
Synthesis of 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purine
The title compound as a TFA salt was synthesized from tert-butyl 4-fluoro-2-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)phenylcarbamate via the procedure described in Example 15. 1H NMR (300 MHz, CDCl3): δ 9.73 (s, 1H), 9.29 (s, 1H), 8.5-8.6 (m, 1H), 8.40 (s, 1H), 7.9-8.1 (m, 1H), 7.3-7.4 (m, 1H), 4.8-5.0 (m, 1H), 4.2-4.4 (m, 2H), 3.7-3.8 (m, 2H), 3.05 (d, 1H), 2.2-2.4 (m, 3H). 19F NMR: δ −112.4.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-fluoro-2-(5-nitro-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-2-ylamino)phenylcarbamate | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)NC1CCOCC1)[N+](=O)[O-] | C20H25FN6O5
product | 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purine | FC=1C=CC2=C(N(C=N2)C2=NC=C3N=CN(C3=N2)C2CCOCC2)C1 | C17H15FN6O
